US07169780B2
Step 8: Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate
Methyl-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-5,6-dihydroxypyrimidine-4-carboxylate in pyridine was treated with benzoic anhydride (1.3 eq.) and the reaction mixture was stirred at room temperature overnight. Pyridine was concentrated and the residue was taken up in ethyl acetate and washed with HCl 1N and brine. The organic phase was dried over Na2SO4 and filtered to give after concentration a crude that was purified by flash chromatography, (eluent: petroleum ether:ethyl acetate=1:1) to give title compound.

reactant | Methyl-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-5,6-dihydroxypyrimidine-4-carboxylate | COC(=O)C1=NC(=NC(=C1O)O)[C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C18H18FN3O6
reactant | benzoic anhydride | 1.3 eq. | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl-5-(benzoyloxy)-2-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}-6-hydroxypyrimidine-4-carboxylate | COC(=O)C1=NC(=NC(=C1OC(C1=CC=CC=C1)=O)O)[C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1 | C25H22FN3O7
